data/rdb19/train.csv
rxn,smiles,ea
1855,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15](=[C:16][c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:25])([H:11])[H:12])([H:8])([H:9])[H:10],27.0159904154134
4380,[C:16]([C:17]([C:18]([H:19])[H:20])([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]=[C:6]([H:11])[H:12])([H:8])([H:9])[H:10].[C:7]([H:13])([H:14])([H:15])[C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:19])[H:20],60.21658065315569
4412,[C:13]([C:14]([C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14]([C:15](=[C:16]([H:25])[H:26])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:10])([H:11])[H:27])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9],33.17465115123196
3885,[C:13]([C:14]([C:15]([H:16])[O:17][C:18]([H:24])([H:25])[H:26])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3](=[C:4][H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:11][C:15]([C:14]([C:13]([H:19])([H:20])[H:21])([H:22])[H:23])([H:16])[O:17][C:18]([H:24])([H:25])[H:26],28.92693960739416
1042,[C:14]([O:15][C:16](=[C:17]([H:22])[H:23])[H:21])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:16]([O:15][C:14]([H:18])([H:19])[H:20])([C:17]([H:22])[H:23])[H:21])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],19.37346773559693
571,[C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])([O:7][C:8](=[O:9])[C:10]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[O:1][H:2]>>[C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])[O:7][C:8](=[O:9])[C:10]([H:20])([H:21])[H:22])([H:14])[H:15])([H:11])([H:12])[H:13].[O:1]([H:2])[H:16],4.7647303736303
4304,[C:16]([C:17]([C:18]([H:19])[H:20])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:27])([H:28])[H:29].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([O:4][C:18]([C:17]([C:16]([H:27])([H:28])[H:29])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:19])[H:20])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],28.34766456094804
2085,[C:11]([O:12][C:13]([C:14]([H:22])([H:23])[H:24])([C:15]([H:16])[H:17])[H:21])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[H:9][C:15]([C:13]([O:12][C:11]([H:18])([H:19])[H:20])([C:14]([H:22])([H:23])[H:24])[H:21])([H:16])[H:17].[N:1]([C:2](=[O:3])[C:4](=[C:5][H:10])[H:8])([H:6])[H:7],25.60020772938151
2691,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[C:22]([C:21]([C:20]([H:24])([H:25])[H:26])[C:23]([H:29])([H:30])[H:31])([H:27])[H:28])([H:13])[H:14])([H:10])([H:11])[H:12],15.437409624108112
746,[C:19]([C:20]([O:21][C:22](=[O:23])[C:24]([H:25])[C:26]([C:27]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])[H:9].[H:10][C:24]([C:22]([O:21][C:20]([C:19]([H:28])([H:29])[H:30])([H:31])[H:32])=[O:23])([H:25])[C:26]([C:27]([H:35])([H:36])[H:37])([H:33])[H:34],26.668129098019563
727,[C:19]([C:20]([H:21])[H:22])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19](=[C:20]([H:21])[H:22])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6][H:23])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],46.0054076583765
388,[C:4]([C:5](=[O:6])[O:7][C:8](=[C:9]([H:14])[H:15])[H:13])([H:10])([H:11])[H:12].[O:1]([O:2])[H:3]>>[C:4](=[C:5]=[O:6])([H:11])[H:12].[H:3][O:7][C:8](=[C:9]([H:14])[H:15])[H:13].[O:1][O:2][H:10],45.59428814263083
